US08957062B2
Step D: benzyl 4-[(1R,2S)-2-(2-{4-[2-(dimethylamino)-2-oxoethyl]-2,5-difluorophenoxy}ethyl)cyclopropyl]piperidine-1-carboxylate
To a solution of {4-[2-((1S,2R)-2-{1-[(benzyloxy)carbonyl]piperidin-4-yl}cyclopropyl)ethoxy]-2,5-difluorophenyl}acetic acid (313 mg, 0.661 mmol) in 2.5 ml anhydrous DMF at RT was added dimethylamine, 2.0 M solution in THF (0.661 ml, 1.32 mmol) and N,N-diisopropylethylamine (0.562 ml, 3.31 mmol). O-(7-Azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate (503 mg, 1.32 mmol) was added into the solution and stirred at RT overnight. The reaction mixture in 12 ml water was extracted with 12 ml ethyl acetate. The organic layer was dried over sodium sulfate, filtered, and the filtrate was concentrated under reduced pressure. The residue was purified on Biotage column (25 g silica gel) using a gradient eluent of 0-50% ethyl acetate in hexanes (800 ml) to afford the title compound. LC/MS (m/z): 501.4 (M+H)+.

reactant | {4-[2-((1S,2R)-2-{1-[(benzyloxy)carbonyl]piperidin-4-yl}cyclopropyl)ethoxy]-2,5-difluorophenyl}acetic acid | 0.661 mmol, 313 mg | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)[C@@H]1[C@@H](C1)CCOC1=CC(=C(C=C1F)CC(=O)O)F | C26H29F2NO5
reactant | dimethylamine | CNC | C2H7N
reactant | THF | 1.32 mmol, 0.661 ml | C1CCOC1 | C4H8O
reactant | N,N-diisopropylethylamine | 3.31 mmol, 0.562 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | O-(7-Azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate | 1.32 mmol, 503 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C
solvent | DMF | 2.5 ml | CN(C)C=O | C3H7NO
product | benzyl 4-[(1R,2S)-2-(2-{4-[2-(dimethylamino)-2-oxoethyl]-2,5-difluorophenoxy}ethyl)cyclopropyl]piperidine-1-carboxylate | CN(C(CC1=CC(=C(OCC[C@H]2[C@H](C2)C2CCN(CC2)C(=O)OCC2=CC=CC=C2)C=C1F)F)=O)C | C28H34F2N2O4
